US04528382
N-Isopropyl 4-Chlorobenzimidoyl Chloride
N-Isopropyl 4-chlorobenzamide (12.7 g, 64.3 mmole) and thionyl chloride (53.81 g, 447 mmole) were heated at reflux with stirring for two hours. Excess thionyl chloride was removed by distillation. The title compound was isolated by distillation (b.p. 65°-70° C. at ~1 mm Hg) to yield 10.7 g (77%) of a light brown yellow liquid.

reactant | N-Isopropyl 4-chlorobenzamide | 64.3 mmole, 12.7 g | C(C)(C)NC(C1=CC=C(C=C1)Cl)=O | C10H12ClNO
reactant | thionyl chloride | 447 mmole, 53.81 g | S(=O)(Cl)Cl | Cl2OS
product | N-Isopropyl 4-Chlorobenzimidoyl Chloride | C(C)(C)N=C(C1=CC=C(C=C1)Cl)Cl | C10H11Cl2N
